* IDEAL_OPAMP - ideal voltage-controlled-voltage-source amplifier macromodel
*
* Provenance: authored for this project (audio-circuits canonical-model),
* 2026-09-22. This is NOT a device model - it does not represent, and is
* not derived from, any real operational amplifier part (it is not a
* TL072, and is not intended to stand in for one). It is a deliberately
* ideal VCVS with very high input impedance and very high open-loop gain.
* Simulation results computed with this model are properties of an IDEAL
* amplifier, not predictions about any real part's behaviour; a reader
* who mistook this for a TL072 (or any other real op-amp) model would draw
* false conclusions about a real circuit from it.
*
* This entry exists so the multi-unit component lowering added in the next
* task has a subcircuit-backed model to test against that does not depend
* on whichever real op-amp model a later task registers (that task may
* legitimately fall back to a generic model rather than a TL072, so this
* entry must not depend on it). It also carries v+/v- supply pins because
* that task emits op-amp components with package v+/v- pins and needs a
* subcircuit-backed model that accepts them; the model does nothing with
* them behaviourally (it stays an ideal amplifier, unaffected by supply
* rail voltage), but real op-amp packages carry those pins and downstream
* code needs a model shaped like one to lower a package against.
*
* Pin order (position in the .subckt line below): in+, in-, out, v+, v-.
* The internal node names (inp, inn, out, vplus, vminus) avoid "+"/"-"
* characters, which are not safe in SPICE node names; the canonical pin
* names are recorded separately as DeviceModel.pinOrder in
* lib/sim/models/index.ts.
*
* Rin bridges inp and inn with a large (1e12 ohm) resistance. It does NOT
* give either input node a DC path to ground by itself - two nodes tied
* only to each other, both otherwise floating, still leave the matrix
* singular (confirmed by instantiating with both inputs on
* otherwise-unconnected nodes: "Warning: singular matrix"). What Rin
* actually does is avoid a floating differential input when only ONE side
* is grounded through the external network: an AC-coupled input with no
* bias resistor to ground, for example, has no DC path of its own, and
* Rin extends the other input's existing ground reference to it. It is
* high enough to be indistinguishable from an open input for any circuit
* impedance this project simulates.
*
* v+ and v- are declared on the .subckt line but referenced by no element
* inside it - deliberately. What was actually observed is that such decks
* SOLVE, not what the engine does internally with the node: a five-argument
* instantiation with real supply rails wired to v+/v- solves, and so does
* one where v+/v- are left connected to nothing else in the whole netlist.
* (A supply net that carries other elements but no DC path to ground is a
* different case and does NOT solve - see GENERIC_OPAMP.spice, where that
* was measured.) An earlier revision of this file
* added a resistor across v+/v- on the theory that an unreferenced node
* needed one; that theory was wrong, and worse, that resistor was what
* tied the two rails into a floating island with no path to ground,
* which is what actually produced a singular-matrix failure when v+/v-
* were left unconnected elsewhere. There is no problem here to solve.
*
* Eout is a VCVS with open-loop gain 1e6, referenced to global ground
* (node 0, which SPICE treats as the same node inside and outside a
* subcircuit) - high enough that closed-loop feedback circuits settle to
* the ideal virtual-short result to numerical precision, without the
* convergence trouble of an infinite gain. It does not reference the
* supply nodes at all, consistent with this being an ideal amplifier that
* is unaffected by supply rail voltage.
*
.subckt IDEAL_OPAMP inp inn out vplus vminus
Rin inp inn 1e12
Eout out 0 inp inn 1e6
.ends IDEAL_OPAMP
